Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Endoscopic ultrasound

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
.
Date: ___
Time: ___
_
________________________________________________________________

PCP: ___. [___
 Admits to: Dept. of Medicine Hospitalist Group. (___) 
(___) . 

CC: ___ abdominal pain
_
________________________________________________________________
HPI: 
The patient is a ___ male with a past medical history of 
obesity, hyperlipidemia, IBS on immodium daily transferred from 
___ with concern of cholangitis. He initially presented 
to an outside hospital today with fevers malaise, myalgias 
abdominal discomfort and was on that elevated transaminases. 
Subsequently he underwent a right upper quadrant on exam which 
showed no gallstones or acute cholecystitis, CBD 6 mm. Per ED 
dashboard he received levaquin and was transferred with for 
MRCP" But per ED call in and 
ED note pt received ceftriaxone 1g and was transferred because 
he could not fit into the MRI at ___. 
His abdominal pain has been in both upper quadrants and lower 
quadrants and also radiates to the back. 
He confirms that 3 days prior to presentation he had abdominal 
cramping and diarrhea. The diarrhea is somehwhat c/w his 
baseline bowel habits has his stools can cycle from formed to 
liquid which correlates with his IBS.
On arrival the patient has no acute complaints. He denies any 
unusual rashes, no tick exposures. No sick contacts. No foreign 
travel. No strange foods or raw seafood. Per pt, he cannot 
tolerate an MRI secondary to claustrophobia. 
Review of At___ demonstrates a 20 lb weight loss since ___. 
He has been outdoors at ___ but has not been in wooded 
areas. Dtr got ___ disease living in ___. He also lives in 
___
 . His sx were not provoked by food. + emesis non bilious and 
non bloody
In ER: (Triage Vitals:0 |97.7 |80 |149/87 |14 |97% RA  ) 
Tm in the ED = ___
Meds Given: 
___ 20:40 IV MetRONIDAZOLE (FLagyl) 500 mg 
___  
___ 21:09 IVF 1000 mL NS 1000 mL ___ 

Fluids given: 
Radiology Studies:
consults called.

.

REVIEW OF SYSTEMS:
CONSTITUTIONAL:  + subjective fevers, + chills 
20 lb weight loss over 6 months- intentional
HEENT:  [X] All normal
RESPIRATORY:  [X] All normal
CARDIAC:  [+]Intermittent chest pulling with stress but it is 
never associated with exertion. It is not associated with 
diaphoresis or short of breath
GI:  As per HPI
GU:  [+] hesitancy which is new for pt
SKIN:  [X] All normal
MUSCULOSKELETAL:  [+] R hip pain
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above
 
Past Medical History:
HYPERTENSION - ESSENTIAL 
IRRITABLE BOWEL SYNDROME 
___ ESOPHAGUS 
GASTRITIS - OTHER TYPE 
OBESITY - MORBID 
Hypercholesterolemia 
S/P colonoscopy 
Puncture wound of hand, left 

 
Social History:
___
Family History:
Brother Alive  
Daughter Alive  
Father ___ at ___ from Alzheimer's disease and heart failure 

Mother ___ at 73 from interstitial lung disease  
Sister Alive  
Son Alive 

 
Physical Exam:
Admission Exam:
Vitals:  T 97.3  P 74  BP 138/76  RR 18 SaO2 98% on RA
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: obese +bs, soft, NT, ND, no guarding or rebound  
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
Author observed dark brown urine at patient's bedside

Discharge Exam: 
Vitals: 97.4 135/69 61 18 98%
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: obese +bs, soft, NT, ND, no guarding or rebound  
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
 
Pertinent Results:
ADMISSION LABS
___ 05:23PM   GLUCOSE-103* UREA N-11 CREAT-0.7 SODIUM-133 
POTASSIUM-3.7 CHLORIDE-99 TOTAL CO2-23 ANION GAP-15
___ 05:23PM   estGFR-Using this
___ 05:23PM   ALT(SGPT)-159* AST(SGOT)-81* ALK PHOS-153* 
TOT BILI-3.1*
___ 05:23PM   ALT(SGPT)-159* AST(SGOT)-81* ALK PHOS-153* 
TOT BILI-3.1*
___ 05:23PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:23PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:23PM   NEUTS-72* BANDS-3 LYMPHS-14* MONOS-6 EOS-3 
BASOS-0 ATYPS-2* ___ MYELOS-0 AbsNeut-2.48 AbsLymp-0.53* 
AbsMono-0.20 AbsEos-0.10 AbsBaso-0.00*
___ 05:23PM   HYPOCHROM-NORMAL ANISOCYT-1+ 
POIKILOCY-OCCASIONAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL OVALOCYT-OCCASIONAL
___ 05:23PM   PLT SMR-LOW PLT COUNT-115*

DISCHARGE LABS
___ 05:23PM BLOOD WBC-3.3* RBC-5.24 Hgb-14.6 Hct-43.0 
MCV-82 MCH-27.9 MCHC-34.0 RDW-13.5 RDWSD-39.8 Plt ___
___ 06:25AM BLOOD WBC-4.1 RBC-5.20 Hgb-14.1 Hct-42.6 MCV-82 
MCH-27.1 MCHC-33.1 RDW-13.3 RDWSD-39.5 Plt ___
___ 06:25AM BLOOD Glucose-121* UreaN-12 Creat-0.8 Na-141 
K-3.8 Cl-104 HCO3-26 AnGap-15
___ 06:25AM BLOOD ALT-163* AST-87* AlkPhos-196* TotBili-1.3
___ 06:25AM BLOOD Calcium-9.1 Phos-3.3 Mg-1.9

MICRO:
HIV Ab negative
HCV Ab negative
HIV VL pending
___ pending
Stool studies pending
O&P pending

==================================
ENDOSCOPIC ULTRASOUND ___
Impression: •The major papilla was on the rim of a large 
duodenal diverticulum. 
•Focused EUS was performed using a linear echoendoscope at 7.5 
MHz frequency
- The bile duct was imaged at the level of the porta-hepatis, 
head of the pancreas and ampulla. 
- The maximum diameter of the bile duct was 5 mm. 
- The bile duct was normal in appearance. 
- No intrinsic stones or sludge were noted. 
- The bile duct and the pancreatic duct were imaged within the 
ampulla and appeared normal. 
- The large duodenal diverticulum was noted endosonographically. 
 
- The gallbladder was completely normal with a normal wall 
thickeness and no stones or sludge noted.
 
Recommendations: •Clear liquid diet when awake, then advance 
diet as tolerated.
•Patient's labs may be reflective of a recently passed stone, 
however given normal appearing gallbladder would strongly 
consider other causes for elevated LFTs.
•If any fever, worsening abdominal pain, or post procedure 
symptoms, please call the advanced endoscopy fellow on call 
___/ pager ___.
 
===========================
# Abdominal Ultrasound ___ (___)

CLINICAL INDICATION: Elevated LFTs and bilirubin. ? Gallstones.

Liver is mildly enlarged; right lobe measures 19 to 20 cm in 
length.
Liver demonstrates mildly increased echotexture diffusely 
compatible
with fatty infiltration. No focal liver lesion identified. Tiny, 
5 mm
gallbladder polyp. Gallbladder otherwise unremarkable without 
evidence
of shadowing stones or wall thickening. Bile ducts are not 
dilated;
CBD measures 6 mm. 3 cm upper pole right renal cyst; kidneys 
otherwise
unremarkable without evidence of shadowing stones or 
hydronephrosis.
Spleen is enlarged measuring 16 cm in length. Otherwise 
pancreas,
abdominal aorta and IVC unremarkable.

IMPRESSION:
1. Mildly enlarged fatty liver.
2. Splenomegaly.
3. Tiny, 5 mm gallbladder polyp. No gallstones identified.

===================================
LABS AT ___ ___
6.2/47.96\165 <- 224 <- 217
LFTS ___
Tbili = 4.6
Direct bili = 2.7
Indirect bili = 1.9
ALT = 187
AST = 71
ALP = 158
===================================
___ LABS:
 
HEMOGRAM/PLT/DIFF, information as of ___, 10:36 am
 
MCV: 82.6, HGB: 15.3, WBC: 4.4*, PLT: 146*, HCT: 46.8
 
N: 85* L: 7* M: 8 E: 0 Bas: 0
 
MCH: 26.9 Pg; MCHC: 32.6 G/Dl; MPV: ___ Fl; RBC\B: 5.67 
X10*6/Ul; RDW: 13.9 %
ALT: 177     AP: 163     Alb: 4.3
AST: 75     Dbili: 3.1     TBili: 4.3
Lip: 21     TProt: 6.4
Na: 135*, Cl: 97*, Bun: 10, Glucose: 114*, Anion Gap: 16, K+: 
3.7, CO2: 22, 
Creat: 0.8
 
Ca: 8.9
==========================================
 
Brief Hospital Course:
___ yo male with a history of IBS, ___ esophagus, and 
morbid obesity who presents with a 5 day history of generalized 
malaise, myalgias, band-like abdominal pain radiating to the 
back, and low grade fevers.  He initially presented to 
___ and was found to have abnormal liver function tests, 
___ ultrasound without gallstones or acute cholecystitis, and 
was transferred to ___ for ERCP evaluation.  

# Fever (low grade)
# Abdominal pain
# Abnormal liver function tests
# Diarrhea
Unclear etiology including biliary obstruction (cholecystitis, 
cholangitis, cholelithiasis), viral gastroenteritis, tick borne 
illness.  Initially treated with empiric cipro/flagyl.  ___ was 
consulted and recommended EUS for evaluation of the biliary 
tree, which showed normal gallbladder and no stones.  
Cipro/flagyl were discontinued.  Stool studies, tick serologies 
were pending at discharge. 

CHRONIC / STABLE ISSUES
# Hypertension
# Hyperlipidemia
# Obesity
- Cont atenolol, aspirin, statin

Transitional Issues:
==========================
# Patient to f/u with his PCP this week for repeat LFTs. Was 
instructed on red flag symptoms that should warrant 
re-evaluation. 
# Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Lovastatin 10 mg oral QHS 
3. Cialis (tadalafil) 5 mg oral DAILY:PRN sexual intercourse 
4. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
5. Sildenafil 20 mg PO Frequency is Unknown 
6. Aspirin 81 mg PO DAILY 
7. LOPERamide 2 mg PO DAILY 

 
Discharge Medications:
1. Cialis (tadalafil) 5 mg oral DAILY:PRN sexual intercourse 
2. LOPERamide 2 mg PO DAILY 
3. Lovastatin 10 mg oral QHS 
4. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
5. Aspirin 81 mg PO DAILY 
6. Atenolol 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroenteritis
Abnormal liver function tests

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized for low grade fevers, abdominal pain, and 
abnormal liver function tests

You underwent EUS, which was normal

Regards, 
Your ___ Team
 
Followup Instructions:
___